US05919777
(2R)-2-(2-Aminoethylamino)-3-phenylpropionic acid methyl ester (0.67 g; 1.49 mmol) and triethylamine (1 ml) were dissolved in methylene chloride (10 ml) and stirred for 48 hours at room temperature. The reaction mixture was evaporated and the residue was chromatographed on silica (2.5×30 cm) using a 7% solution of ammonia in ethanol/methylene chloride (1:9) as eluent to afford 0.18 g of (3R)-3-benzylpiperazin-2-one.

reactant | (2R)-2-(2-Aminoethylamino)-3-phenylpropionic acid methyl ester | 1.49 mmol, 0.67 g | COC([C@@H](CC1=CC=CC=C1)NCCN)=O | C12H18N2O2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (3R)-3-benzylpiperazin-2-one | 0.18 g | C(C1=CC=CC=C1)[C@@H]1C(NCCN1)=O | C11H14N2O
